US07582753B2
The [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid ethyl ester is reacted with an aqueous base such as NaOH, KOH, and the like, according to known methods, to yield [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl )-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid, which is preferably isolated, according to known methods.

reactant | [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl)-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid ethyl ester | C(C)OC(CN1N=C(C2=C(N(C1=O)CC(=O)C1CCCC1)C=CC=C2)C2CCCCC2)=O | C25H33N3O4
reactant | NaOH | [OH-].[Na+]
reactant | KOH | [OH-].[K+]
product | [5-cyclohexyl-1-(2-cyclopentyl-2-oxo-ethyl )-2-oxo-1,2-dihydro-benzo[e][1,2,4]triazepin-3-yl]-acetic acid | C1(CCCCC1)C=1C2=C(N(C(N(N1)CC(=O)O)=O)CC(=O)C1CCCC1)C=CC=C2 | C23H29N3O4
